US06979741B2
(3R)-[1,4′]Bipiperidinyl-3-carboxylic acid ethyl ester bishydrochloride
[1,4′]Bipiperidinyl-3,1′-dicarboxylic acid 1′-tert-butyl ester 3-ethyl ester (21.14 g, containing some isopropyl ester) was dissolved in ethyl acetate (80 mL) under nitrogen, cooled to −78° C. and hydrogen chloride passed in for several minutes until the solution became saturated. The solution was allowed to warm to ambient temperature with provision for the evolved gases to be trapped by water in a scrubber. After 3 hr the solution was evaporated to dryness in a stream of dry nitrogen to give the title compound as a white solid.

reactant | [1,4′]Bipiperidinyl-3,1′-dicarboxylic acid 1′-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1CN(CCC1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H32N2O4
reactant | hydrogen chloride | Cl | ClH
reactant | water | O | H2O
solvent | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
product | (3R)-[1,4′]Bipiperidinyl-3-carboxylic acid ethyl ester bishydrochloride | Cl.Cl.C(C)OC(=O)[C@H]1CN(CCC1)C1CCNCC1 | InChI=1S/C13H24N2O2.2ClH/c1-2-17-13(16)11-4-3-9-15(10-11)12-5-7-14-8-6-12;;/h11-12,14H,2-10H2,1H3;2*1H/t11-;;/m1../s1
